US07863294B2
Step 1: tert-Butyl 6-[(2S,5R)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl]hexanoate (I1)
To a stirred solution of (2R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine (1.0 eq.) in THF at −78° C., was added dropwise over 10 min a solution of BuLi (1.6 N in hexane, 1.0 eq.) and stirring was continued at −78° C. for 45 min. A pre-cooled solution of tert-butyl 6-iodohexanoate (1.0 eq.) in THF was then added by cannula over 5 min and the reaction stirred overnight, slowly warming to RT. The reaction was then left to stir at RT for a further hour and was quenched by the addition of aqueous NH4Cl solution. The THF layer was decanted off and concentrated under reduced pressure, meanwhile and the aqueous mixture was extracted with EtOAc (3×). The EtOAc extracts were used to redissolve the oily THF residue and this solution was washed with brine, dried (Na2SO4) and concentrated under reduced pressure. The crude was used directly in the next step without further purification (I1).

reactant | (2R)-2-isopropyl-3,6-dimethoxy-2,5-dihydropyrazine | 1.0 eq. | C(C)(C)[C@H]1N=C(CN=C1OC)OC | C9H16N2O2
reactant | BuLi | 1.6 N, 1.0 eq. | [Li]CCCC
reactant | tert-butyl 6-iodohexanoate | 1.0 eq. | ICCCCCC(=O)OC(C)(C)C | C10H19IO2
solvent | THF | C1CCOC1 | C4H8O
product | tert-Butyl 6-[(2S,5R)-5-isopropyl-3,6-dimethoxy-2,5-dihydropyrazin-2-yl]hexanoate | C(C)(C)[C@H]1N=C([C@@H](N=C1OC)CCCCCC(=O)OC(C)(C)C)OC | C19H34N2O4
